US09193689B2
[2-(tert-Butyl-diphenyl-silanyloxy)-ethyl]-methyl-carbamic acid tert-butyl ester (572 mg, 1.38 mmol) and 4M HCl/dioxane (3 mL) in CH2Cl2 (5 mL) were stirred at RT for 3 h. The reaction mixture was concentrated in vacuo and the crude material was purified by silica gel column chromatography, eluting with CH2Cl2 and increasing the polarity to 10% MeOH/CH2Cl2 to obtain [2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-methyl-amine as a yellow solid (105 mg, 21%).

reactant | [2-(tert-Butyl-diphenyl-silanyloxy)-ethyl]-methyl-carbamic acid tert-butyl ester | 1.38 mmol, 572 mg | C(C)(C)(C)OC(N(C)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C24H35NO3Si
reactant | HCl dioxane | 4M, 3 mL | Cl.O1CCOCC1
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | [2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-methyl-amine | 105 mg, 21% | C(C)(C)(C)[Si](OCCNC)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H27NOSi
